US07781438B2
Preparation of 8-Methoxy-3-nitro-naphthalene-2-carboxylic acid ethyl ester
A solution of 3-nitro-propionic acid ethyl ester (16.25 g, 110.45 mmol, 4.0 equiv) in EtOH (150 ml) was added at 0° C. under an atmosphere of argon to a freshly prepared solution of sodium (2.54 g, 110.45 mmol, 4.0 equiv) in EtOH (110 ml). After 15 minutes, a solution of 3-methoxy-benzene-1,2-dicarbaldehyde (4.53 g, 27.61 mmol) in EtOH (150 ml) was added at 0° C. The reaction mixture was warmed to room temperature, and after 40 minutes, TLC analysis indicated complete conversion. 2 N aqueous HCl (55 ml, 4 equiv) was carefully added at 0° C., and the mixture was extracted with EtOAc (1.5 liter in total). The combined organic layers were washed with concentrated aqueous NH4Cl solution (200 ml), brine (400 ml), dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified via flash chromatography (gradient of toluene/hexane 5:5 to 10:0) to afford the title compound (0.942 g, 12%, inseparable 1:1.15 mixture of regioisomers A:B) as a yellow oil. 1H NMR (400 MHz, CDCl3): δ=8.87 (s, 1H isomer A), 8.69 (s, 1H isomer B), 8.33 (s, 1H isomer B), 8.15 (s, 1H isomer A), 7.64-7.59 (m, 1H isomer A+1H isomer B), 7.53 (d, J=8.1 Hz, 1H isomer B), 7.51 (d, J=8.3 Hz, 1H isomer A), 7.02 (d, J=6.5 Hz, 1H isomer B), 7.00 (d, J=7.8 Hz, 1H isomer A), 4.42 (q, J=7.3 Hz, 2H isomer A), 4.41 (q, J=7.1 Hz, 2H isomer B), 4.04 (s, 3H isomer A), 4.03 (s, 3H isomer B), 1.38 (t, J=6.3 Hz, 3H isomer A+3H isomer B). MS (ES+): 276 (M+H)+.

reactant | 3-nitro-propionic acid ethyl ester | 110.45 mmol, 16.25 g, 4.0 equiv | C(C)OC(CC[N+](=O)[O-])=O | C5H9NO4
reactant | sodium | 110.45 mmol, 2.54 g, 4.0 equiv | [Na] | Na
reactant | 3-methoxy-benzene-1,2-dicarbaldehyde | 27.61 mmol, 4.53 g | COC1=C(C(=CC=C1)C=O)C=O | C9H8O3
reactant | HCl | 2 N, 55 ml, 4 equiv | Cl | ClH
solvent | EtOH | 150 ml | CCO | C2H6O
solvent | EtOH | 110 ml | CCO | C2H6O
solvent | EtOH | 150 ml | CCO | C2H6O
product | 8-Methoxy-3-nitro-naphthalene-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(C=CC=C2C=C1[N+](=O)[O-])OC | C14H13NO5
